US07592357B2
Step 1. Methyl 4-(2,3-difluorophenyl)-2-methyl-6-oxo-1,4,5,6-tetrahydro-3-pyridinecarboxylate
To a mixture of 2,3-difluorobenzaldehyde (2.23 mL, 20 mmol), 2,2-dimethyl-1,3-dioxane-4,6-dione (2.88 g, 20 mmol) and ammonium acetate (1.62 g, 21 mmol) under nitrogen was added methyl 3-oxobutanoate (2.16 mL, 20 mmol) and acetic acid (20 mL). This mixture was then heated to 110° C. for 1 h. The reaction mixture was cooled to room temperature and then poured into water (80 mL). The mixture was decanted to leave a yellow oil, which was then triturated with 5% ether/hexanes to afford the title compound (1.89 g, 34%). MS (ES+) m/e 282 [M+H]+.

reactant | 2,3-difluorobenzaldehyde | 20 mmol, 2.23 mL | FC1=C(C=O)C=CC=C1F | C7H4F2O
reactant | 2,2-dimethyl-1,3-dioxane-4,6-dione | 20 mmol, 2.88 g | CC1(OC(CC(O1)=O)=O)C | C6H8O4
reactant | ammonium acetate | 21 mmol, 1.62 g | C(C)(=O)[O-].[NH4+]
reactant | methyl 3-oxobutanoate | 20 mmol, 2.16 mL | O=C(CC(=O)OC)C | C5H8O3
solvent | water | 80 mL | O | H2O
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | Methyl 4-(2,3-difluorophenyl)-2-methyl-6-oxo-1,4,5,6-tetrahydro-3-pyridinecarboxylate | 1.89 g, 34% | FC1=C(C=CC=C1F)C1C(=C(NC(C1)=O)C)C(=O)OC | C14H13F2NO3
